US09376452B2
A solution of tert-butyl 2-amino-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate (1.0 mL, 0.083 M, 0.083 mmol) in THF was added to a solution of 4-methoxybenzoyl isothiocyanate (51 mg, 0.26 mmol) in THF (1 mL) and heated at 50° C. for 16 hours, then cooled to room temperature. The solvent was removed and EtOH (2 mL) was added. The product was filtered and rinsed with EtOH (3×5 mL). tert-Butyl 2-(3-(4-methoxybenzoyl)thioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate (31 mg, 0.065 mmol, 78% yield) was isolated as a white solid. 1H NMR (400 MHz, CDCl3) δ 14.65 (s, 1H), 8.98 (s, 1H), 7.83 (apparent d, J=8.9 Hz, 2H), 6.91 (apparent d, J=8.9 Hz, 2H), 4.66 (s, 2H), 3.81 (s, 3H), 2.69 (s, 2H), 1.56 (s, 9H), 1.24 (s, 6H). 13C NMR (101 MHz, CDCl3) δ 173.90, 164.52, 164.49, 163.88, 147.40, 129.93, 129.13, 124.58, 123.65, 118.03, 114.34, 82.36, 70.79, 59.81, 55.62, 38.25, 28.49, 26.48.

reactant | tert-butyl 2-amino-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate | 0.083 mmol, 0.083 M, 1.0 mL | NC1=C(C2=C(COC(C2)(C)C)S1)C(=O)OC(C)(C)C | C14H21NO3S
reactant | 4-methoxybenzoyl isothiocyanate | 0.26 mmol, 51 mg | COC1=CC=C(C(=O)N=C=S)C=C1 | C9H7NO2S
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | tert-Butyl 2-(3-(4-methoxybenzoyl)thioureido)-5,5-dimethyl-5,7-dihydro-4H-thieno[2,3-c]pyran-3-carboxylate | 0.065 mmol, 31 mg, 78% yield | COC1=CC=C(C(=O)NC(NC2=C(C3=C(COC(C3)(C)C)S2)C(=O)OC(C)(C)C)=S)C=C1 | C23H28N2O5S2
